US03998834
A mixture of 3.1 parts of 2-bromoethylbenzene, 4.1 parts of N-[4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide, 0.1 parts of potassium iodide, 2.4 parts of sodium carbonate and 80 parts of 4-methyl-2-pentanone is stirred and refluxed for 48 hours. The reaction mixture is poured onto water and the whole is shaken thoroughly. The organic phase is separated, washed with water, dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue solidifies on triturating in n-hexane. The product is filtered off and dried, yielding N-[4-(methoxymethyl)-1-(2-phenylethyl)-4-piperidinyl]-N-phenylpropanamide; mp. 85° C.

reactant | 2-bromoethylbenzene | BrCCC1=CC=CC=C1 | C8H9Br
reactant | N-[4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide | COCC1(CCNCC1)N(C(CC)=O)C1=CC=CC=C1 | C16H24N2O2
reactant | potassium iodide | [I-].[K+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | N-[4-(methoxymethyl)-1-(2-phenylethyl)-4-piperidinyl]-N-phenylpropanamide | COCC1(CCN(CC1)CCC1=CC=CC=C1)N(C(CC)=O)C1=CC=CC=C1 | C24H32N2O2
